US05578627
To a solution of 0.38 g of 3-[2-tert-butoxycarbonylamino-3-(3-hydroxy-5-isoxazolyl)propoxy]-5-chloro-1,2-benzoisoxazole in 2 ml of methanol is added 1.2 ml of a 2-propanol solution (6.5M) of hydrogen chloride at room temperature, and they are subjected to reaction at the same temperature for six hours, after which the solvent is removed by distillation under reduced pressure. Ethyl acetate is added to the residue obtained and the crystals precipitated are collected by filtration, to obtain 0.22 g of pale yellow, crystalline 3-[2-amino-3-(3-hydroxy-5-isoxazolyl)propoxy]-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 188.5°-193.5° C. (decomp.).

reactant | 3-[2-tert-butoxycarbonylamino-3-(3-hydroxy-5-isoxazolyl)propoxy]-5-chloro-1,2-benzoisoxazole | 0.38 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)CC2=CC(=NO2)O | C18H20ClN3O6
reactant | 2-propanol | 6.5M, 1.2 ml | CC(C)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 3-[2-amino-3-(3-hydroxy-5-isoxazolyl)propoxy]-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)CC2=CC(=NO2)O | InChI=1S/C13H12ClN3O4.ClH/c14-7-1-2-11-10(3-7)13(17-21-11)19-6-8(15)4-9-5-12(18)16-20-9;/h1-3,5,8H,4,6,15H2,(H,16,18);1H
